* C:\users\alejopm\Favorites\alejopm\eng\ELT\eletronica-3\atividade-3\simulation\1.asc
XU1 0 N001 Vcc Vdd Vout TL082
XU2 N002 Vdc Vcc Vdd Vcomp TL082
R1 N002 Vout 1k
C1 Vout N001 2.7n
Q1 Vout Vcomp N001 0 BC548B
C2 Vcomp N002 1n
R2 N001 Vco 100k
V1 Vcc 0 12
V2 0 Vdd 12
V3 Vco 0 -3
V4 Vdc 0 7
.model NPN NPN
.model PNP PNP
.lib C:\users\alejopm\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2m 0.1m startup
.lib ..\sym\EXTRA\ExtraComparators\Tl082.lib
.backanno
.end
